US05905084
5-(N-[benzyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
A mixture of 0.25 gm (1.09 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine, 0.5 gm molecular sieves, and 0.22 mL (2.17 mMol) benzaldehyde in 10 mL methanol was stirred at 40° C. for 5 hours. The reaction mixture was then cooled to room temperature and then 0.124 gm (3.27 mMol) sodium borohydride were added. The reaction mixture was then stirred for 30 minutes at room temperature and then the reaction mixture quenched with 1N sodium hydroxide. The reaction mixture was concentrated under reduced pressure and then the aqueous residue was extracted well with 3:1 chloroform:isopropanol. The organic phases were combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing 0-10% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide the title compound.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.09 mMol, 0.25 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | benzaldehyde | 2.17 mMol, 0.22 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 3.27 mMol, 0.124 gm | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 5-(N-[benzyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C20H24N4
